US04356176
The solution of 4.5 g of 5-chloro-2-(o-dimethylaminomethyl-phenyl)-2-benzoylpyridine in 120 ml of methylene chloride is treated during 4 hours with 13.7 ml of 0.94 molar cyanogen bromide in methylene chloride. The mixture is evaporated, the residue dissolved in 200 ml of saturated methanolic ammonia, and the solution evaporated after 2 days. The residue is taken up in aqueous sodium carbonate, the mixture extracted with diethyl ether, the extract washed with saturated aqueous sodium chloride, decolorized with activated charcoal, evaporated and the residue crystallized from diethyl ether to give the 9-chloro-7-(2-pyridyl)-5H-dibenz[c,e]azepine melting at 153°-155°.

reactant | 5-chloro-2-(o-dimethylaminomethyl-phenyl)-2-benzoylpyridine | 4.5 g | ClC=1C=CC(NC1)(C(C1=CC=CC=C1)=O)C1=C(C=CC=C1)CN(C)C | C21H21ClN2O
reactant | cyanogen bromide | 0.94 molar, 13.7 ml | N#CBr | CBrN
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | 9-chloro-7-(2-pyridyl)-5H-dibenz[c,e]azepine | ClC1=CC2=C(C3=C(CN=C2C2=NC=CC=C2)C=CC=C3)C=C1 | C19H13ClN2
